US07067529B2
6,7-Dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid amide
A solution of 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (30mg, 81.7 mmol), ammonium chloride (43.5 mg. 0.817 mM) and triethylamine (0.115 mL, 0.817 mM) in 2 mL of dimethylformamide was stirred with O-benzotriazol-1-yl-N,N,N,N-tetramethyluronium hexafluorophosphate (61.9 mg. 0.163 mM) at room temperature for 20 hours. Poured into 20 mL of water and 20 mL of ethyl acetate, extracted ethyl acetate layer with saturated sodium bicarbonate, dried ethyl acetate solution. over anhydrous magnesium sulfate and evaporated to give 5.4 mg of an off-white solid pure product: APCI-MS m/e calcd for C20H18N2O6 (M+H.) 367.4, found 367; H NMR (300 MHz) compatible.

reactant | 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid | 81.7 mmol, 30mg | COC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C(=O)O | C20H17NO6
reactant | ammonium chloride | 0.817 mM, 43.5 mg | [Cl-].[NH4+]
reactant | triethylamine | 0.817 mM, 0.115 mL | C(C)N(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 6,7-Dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid amide | 5.4 mg | COC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C(=O)N | C20H18N2O5
